US08012976B2
A mixture of ethyl 3-(furan-3-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (80 mg) in 85% hydrazine monohydrate (10 mL) and methanol (10 mL) was stirred at 45° C. overnight. Methanol was removed under reduced pressure. The crude product was purified by prep-HPLC to give 9-(furan-3-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (5 mg, yield 7%). 1H-NMR (400 MHz, CD3OD) δ (ppm): 4.19 (d, J=8.0 Hz, 1H), 4.67 (d, J=8.0 Hz, 1H), 6.26 (s, 1H), 7.07-7.21 (m, 7H), 7.30 (s, 1H), 7.27 (m, 1H), 7.41 (d, 1H), 7.51 (m, 1H); LC-MS (ESI) m/z: 330 (M+1)+.

reactant | ethyl 3-(furan-3-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 80 mg | O1C=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C22H19NO4
reactant | hydrazine monohydrate | 10 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 9-(furan-3-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 5 mg, yield 7% | O1C=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C20H15N3O2
